US08912200B2
Step 1: 5-Acetyl-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carbonitrile
To a mixture of 2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carbonitrile (1.80 g, 8.28 mmol) in DCM (40 mL) was added acetyl chloride (0.936 mL, 13.14 mmol) at room temperature, under nitrogen. The resultant mixture was cooled to 0° C. and anhydrous aluminum trichloride (2.62 g, 19.8 mmol) was added in small portions during a period of 10 min, keeping the internal temperature below 5° C. Upon complete addition, the mixture was brought to room temperature and allowed to stir for 30 min. Then, the mixture was slowly poured in a solution of ice-cooled 1 M HCl (18 mL). The aqueous layer was separated and extracted twice with DCM (40 mL). The combined organic extracts were washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The crude material was chromatographed on silica gel (10 to 20% EtOAc/hexane) to afford the title compound (2.0 g, 86%).

reactant | 2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carbonitrile | 8.28 mmol, 1.80 g | ClC=1C=CC(=C(C1)C=1NC=CC1C#N)C | C12H9ClN2
reactant | acetyl chloride | 13.14 mmol, 0.936 mL | C(C)(=O)Cl | C2H3ClO
reactant | aluminum trichloride | 19.8 mmol, 2.62 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | HCl | 1 M, 18 mL | Cl | ClH
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 5-Acetyl-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carbonitrile | 2.0 g, 86% | C(C)(=O)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C#N | C14H11ClN2O
